US07858650B2
5-[(1Z)-1-hepten-1-yl]-2-methylphenol
Under an atmosphere of Argon, to a solution of n-hexylphosphonium bromide (1.07 g) in tetrahydrofuran (10 mL) was added potassium t-butoxide (336 mg) at room temperature and the solution was stirred for 30 minutes. After cooling in ice bath, 3-hydroxy-4-methylbenzaldehyde (136 mg) was added to the reaction solution, which was stirred at room temperature for 1.5 hours. The reaction solution was diluted with t-butyl methyl ether. The solution was washed with dilute hydrochloric acid, water and brine, dried over anhydrous sodium sulfate and concentrated. The obtained residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:4) to give the title compound (180 mg) having the following physical data.

reactant | n-hexylphosphonium bromide | 1.07 g | [Br-].C(CCCCC)[PH3+]
reactant | potassium t-butoxide | 336 mg | CC(C)([O-])C.[K+]
reactant | 3-hydroxy-4-methylbenzaldehyde | 136 mg | OC=1C=C(C=O)C=CC1C | C8H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | t-butyl methyl ether | COC(C)(C)C | C5H12O
product | 5-[(1Z)-1-hepten-1-yl]-2-methylphenol | 180 mg | C(=C/CCCCC)/C=1C=CC(=C(C1)O)C | C14H20O
